US07074800B1
Potassium tert-butoxide (3.94 g, 35.4 mmol) was dissolved in anhydrous DMF (15 ml) and a mixture of 2-benzyloxy-5-nitro-trifluoromethylbenzene (3.5 g, 16.1 mmol) and 4-chlorophenylacetonitrile (2.96 g, 17.7 mmol) in DMF (20 ml) was added over 30 minutes keeping the temperature at −15C. The mixture was stirred at −10° C. for 1 hour, then poured into 1M hydrochloric acid (150 ml) and the product extracted with dichloromethane (2×100 ml). The organic extracts were dried (MgSO4) and purified by silica column chromatography eluting with dichloromethane/hexane (1/1) to give 5-benzyloxy-2-nitro-4-(trifluoromethyl)phenylacetonitrile (5.2 g, 77%).

reactant | Potassium tert-butoxide | 35.4 mmol, 3.94 g | CC(C)([O-])C.[K+]
reactant | 2-benzyloxy-5-nitro-trifluoromethylbenzene | 16.1 mmol, 3.5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C14H10F3NO3
reactant | 4-chlorophenylacetonitrile | 17.7 mmol, 2.96 g | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | hydrochloric acid | 1M, 150 ml | Cl | ClH
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-benzyloxy-2-nitro-4-(trifluoromethyl)phenylacetonitrile | 5.2 g, 77% | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)CC#N)[N+](=O)[O-])C(F)(F)F | C16H11F3N2O3
